US05389486
9.6 parts of allyltriphenylphosphonium bromide prepared in the above Synthetic Example 1 was dissolved in 140 parts of water and a solution of 2.8 parts of sodium tetrafluoroborate in 9 parts of water was slowly added dropwise thereto. After 5 hr stirring, the resulting colorless crystals were collected by filtration, washed with 200 parts of water, and dried to obtain 6.5 parts of allyltriphenylphosphonium tetrafluoroborate (compound No. 1).

reactant | allyltriphenylphosphonium bromide | [Br-].C(C=C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium tetrafluoroborate | F[B-](F)(F)F.[Na+]
solvent | water | O | H2O
product | allyltriphenylphosphonium tetrafluoroborate | F[B-](F)(F)F.C(C=C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H20P.BF4/c1-2-18-22(19-12-6-3-7-13-19,20-14-8-4-9-15-20)21-16-10-5-11-17-21;2-1(3,4)5/h2-17H,1,18H2;/q+1;-1
